US08017780B1
Step 6: 2-[(6-Bromo-1,3-benzodioxol-5-yl)sulfanyl]-1H-imidazo[4,5-c]pyridin-4-amine
2-[(6-Bromo-1,3-benzodioxol-5-yl)sulfanyl]-1-(4-methoxybenzyl)-1H-imidazo[4,5-c]pyridin-4-amine (999 mg, 2.05 mmol) was dissolved in TFA (8 mL) and the mixture was heated at 80° C. for 7 h. Upon completion of the reaction, the mixture was concentrated in vacuum and the residual TFA was azeotropically removed with toluene. The resulting residue was diluted with water and was adjusted to pH 7 by satd. NaHCO3. The product portion was extracted with EtOAc, washed with brine, dried (Na2SO4), filtered, and concentrated in vacuum. The residue was then triturated with EtOAc, filtered, washed with EA, and dried to afford the title compound (588 mg, 79%). Additional product (126 mg, 17%) was obtained by column (SiO2, MeOH/CH2Cl2, 0 to 10%) purification of the combined filtrates: 1H NMR (DMSO-d6) δ 7.53 (d, J=6.4 Hz, 1H), 7.39 (s, 1H), 7.16-7.08 (brs, 2H), 7.07 (s, 1H), 6.79 (d, J=6.4 Hz, 1H), 6.12 (s, 2H); LC-MS [M+H]+ 366.97.

reactant | 2-[(6-Bromo-1,3-benzodioxol-5-yl)sulfanyl]-1-(4-methoxybenzyl)-1H-imidazo[4,5-c]pyridin-4-amine | 2.05 mmol, 999 mg | BrC=1C(=CC2=C(OCO2)C1)SC=1N(C2=C(C(=NC=C2)N)N1)CC1=CC=C(C=C1)OC | C21H17BrN4O3S
solvent | TFA | 8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-[(6-Bromo-1,3-benzodioxol-5-yl)sulfanyl]-1H-imidazo[4,5-c]pyridin-4-amine | 588 mg, 79% | BrC=1C(=CC2=C(OCO2)C1)SC=1NC2=C(C(=NC=C2)N)N1 | C13H9BrN4O2S
